US08957070B2
N-Methyl-N-{2-[5-(2-morpholin-4-yl-2-oxoethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide
To a mixture of (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)acetic acid (0.38 g), morpholine (0.16 g), 1H-1,2,3-benzotriazol-1-ol (0.18 g) and N,N-dimethylformamide (10 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide-hydrochloride (0.26 g) at 0° C., and the mixture was stirred at room temperature for 4 hr. Water was added to the reaction mixture, and the obtained crystals were filtrated, washed with water and dried. A solution of the obtained crystals in tetrahydrofuran was treated with activated carbon and concentrated to give the title compound (0.37 g, yield 83%) as colorless crystals. The crystals were recrystallized from ethyl acetate. melting point 199-200° C.

reactant | (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)acetic acid | 0.38 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CC(=O)O)S(=O)(=O)C=1SC=CC1 | C18H15N3O4S3
reactant | morpholine | 0.16 g | N1CCOCC1 | C4H9NO
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.18 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide-hydrochloride | 0.26 g | Cl.CN(CCCN=C=NCC)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-Methyl-N-{2-[5-(2-morpholin-4-yl-2-oxoethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 0.37 g, yield 83% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CC(=O)N1CCOCC1 | C22H22N4O4S3
